US07189851B2
C. tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate
tert-Butyl (2S)-2-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)carbonyl]-1-pyrrolidinecarboxylate (85 g, 250 mmol) was dissolved in 500 mL absolute EtOH and refluxed for 3 h. Concentration provided the title compound as a light yellow oil (68.4 g, 240 mmol, 96%). 1H NMR (400 MHz, CDCl3, mixture of rotamers and keto/enol tautomers) δ 4.35 (m, 0.5H), 4.25 (m, 0.5H), 4.17 (m, 2H), 3.6–3.4 (m, 3H), 2.2–1.8 (m, 4H), 1.4 (m, 9H), 1.15 (m, 3H) ppm.

reactant | tert-Butyl (2S)-2-[(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)carbonyl]-1-pyrrolidinecarboxylate | 250 mmol, 85 g | CC1(OC(C(C(O1)=O)C(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)C | C16H23NO7
solvent | EtOH | 500 mL | CCO | C2H6O
product | tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate | 240 mmol, 68.4 g, 96% | C(C)OC(CC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H23NO5
